US09340549B2
A mixture of 8-phenyl-5-oxa-7-azaspiro[3.4]octan-6-one (0.3 g, 1.57 mmol), 4-iodo-N-(quinolin-8-yl)benzamide, (0.650 g, 1.73 mmol), Cs2CO3 (1.125 g, 3.47 mmol), X-Phos (40 mg, 0.07 mmol) and Pd2(dba)3 (73 mg, 0.07 mmol) in 1,4-dioxane (2 mL) in a 50 mL round bottom flask was purged with N2 gas for 15 minutes. The reaction mixture was then heated at 90° C. for 12 hours. After completion of reaction (monitored by TLC, TLC eluent: 30% EtOAc in hexane), the reaction mixture was cooled, and 1,4-dioxane was evaporated under reduced pressure to afford initial product. The initial product was purified by column chromatography using silica gel eluting with 20% EtOAc in hexane to yield (R+S) 4-(6-oxo-8-phenyl-5-oxa-7-azaspiro[3.4]octan-7-yl)-N-(quinolin-8-yl)benzamide (70 mg, 12%) as a brown solid. 1H NMR (400 MHz, CDCl3) δ: 10.65 (s, 1H), 8.88 (dd, J=7.2, 1.6 Hz, 1H), 8.83-8.81 (m, 1H), 8.18 (dd, J=8.4, 1.6 Hz, 1H), 7.99-7.96 (m, 2H), 7.67-7.64 (m, 2H), 7.59-7.51 (m, 2H), 7.49-7.45 (m, 1H), 7.43-7.34 (m, 3H), 7.29-7.26 (m, 2H), 5.23 (s, 1H), 2.68-2.63 (m, 1H), 2.48-2.43 (m, 1H), 2.22-2.18 (m, 1H), 1.96-1.91 (m, 1H), 1.76-1.71 (m, 1H), 1.62-1.57 (m, 1H). m/z (ESI) 450.1 (M+H)+.

reactant | 8-phenyl-5-oxa-7-azaspiro[3.4]octan-6-one | 1.57 mmol, 0.3 g | C1(=CC=CC=C1)C1NC(OC12CCC2)=O | C12H13NO2
reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 1.73 mmol, 0.650 g | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | Cs2CO3 | 3.47 mmol, 1.125 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | X-Phos | 0.07 mmol, 40 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.07 mmol, 73 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(6-oxo-8-phenyl-5-oxa-7-azaspiro[3.4]octan-7-yl)-N-(quinolin-8-yl)benzamide | 70 mg, 12% | O=C1OC2(CCC2)C(N1C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1)C1=CC=CC=C1 | C28H23N3O3
